US07465815B2
2-(2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)-2-methylpropanoic acid
A mixed solution of ethyl 2-(2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)-2-methylpropanoate obtained in Reference Example 153 (6.65 g, 18.1 mmol) and a 8 N aqueous sodium hydroxide solution (4.5 mL) in methanol (40 mL)-THF (20 mL) was stirred at room temperature for 16 hours. The reaction solution was acidified with hydrochloric acid, and the aqueous layer was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure to obtain 5.59 g (yield 91%) of the title compound. Oily matter.

reactant | ethyl 2-(2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)-2-methylpropanoate | C(C)(C)C1=CC=C(CC2=C(OC(C(=O)OCC)(C)C)C=C(C=C2C)C)C=C1 | C24H32O3
reactant | sodium hydroxide | 8 N, 4.5 mL | [OH-].[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 2-(2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)-2-methylpropanoic acid | 5.59 g, yield 91% | C(C)(C)C1=CC=C(CC2=C(OC(C(=O)O)(C)C)C=C(C=C2C)C)C=C1 | C22H28O3
